US08791132B2
1-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-3-yl-propan-2-ol (2.0 g, 5.97 mmol) was dissolved in DMF (20 ml), sodium hydride (716 mg, 17.9 mmol) was added and the mixture stirred at RT for 20 min. Acetic anhydride (913 mg, 8.95 mmol) was added dropwise at the same temperature and stirring continued for 1.5 h. The reaction was monitored by TLC and LCMS. The reaction mixture was poured into 250 mL ice water and extracted with EtOAc (3×200 mL), washed with water (3×300 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product that was purified by column chromatography (silica gel: 100-200 mesh, eluent: −6-8% MeOH in DCM) to obtain 110 mg of acetic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-methyl-1-pyridin-3-yl-ethyl ester, which was followed by chiral separation. 1H NMR (CD3OD, Free base) δ (ppm): 8.38 (d, 1H), 8.15 (s, 1H), 7.45 (d, 1H), 7.22 (t, 1H), 7.1 (s, 1H), 7.0 (s, 1H), 6.8 (d, 1H), 4.43 (d, 1H), 4.2 (d, 1H), 3.7 (d, 1H), 3.5 (d, 1H), 2.8 (m, 2H), 2.53 (m, 1H), 2.5 (s, 3H), 2.4 (s, 3H), 2.2 (m, 1H), 2.07 (d, 6H). Separation by chiral HPLC provided enantiomers II-15a-b.

reactant | 1-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-pyridin-3-yl-propan-2-ol | 5.97 mmol, 2.0 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=NC=CC2)CC1 | C21H25N3O
reactant | sodium hydride | 17.9 mmol, 716 mg | [H-].[Na+]
reactant | Acetic anhydride | 8.95 mmol, 913 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | acetic acid 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-methyl-1-pyridin-3-yl-ethyl ester | 110 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C=2C=NC=CC2)(C)OC(C)=O)CC1 | C23H27N3O2
